US03992385
2,3-Dihydro-6-methyl-8-hydroxymethylergoline
A suspension of 8.13 g. of 6-methyl-8-hydroxymethylergoline and 560 g. of zinc metal dust in 250 ml. of water was cooled to 5° C. in an ice-water bath and stirred. To the cold reaction mixture was added 2500 ml. of concentrated hydrochloric acid dropwise over 6 hours. The acidic aqueous reaction mixture was filtered and the filtrate was made alkaline by the addition of ammonium hydroxide. The aqueous alkaline reaction mixture was extracted with chloroform, and the combined chloroform extracts were washed with water, dried, and the solvent was removed under reduced pressure to afford an oil. The oil was crystallized from methanol,providing 2,3-dihydro-6-methyl-8-hydroxymethylergoline, M.P. 226°-228° C.

reactant | 6-methyl-8-hydroxymethylergoline | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CO | C16H20N2O
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc | [Zn] | Zn
solvent | water | O | H2O
product | 2,3-Dihydro-6-methyl-8-hydroxymethylergoline | CN1CC(C[C@@H]2C=3C=CC=C4NCC(C[C@@H]12)C34)CO | C16H22N2O
